US07968591B2
Sodium hydride (470 mg, 60% in mineral oil, 11.8 mmol) was added to a solution of 4-methyl-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.42 g, 5.84 mmol) in THF (10 mL) at 0° C. and under nitrogen as inert gas and the reaction mixture was stirred for 15 min. Then p-bromobenzyl bromide (2.16 g, 11.7 mmol) was added to the reaction mixture and the reaction mixture was stirred for 30 min at 0° C. and overnight at RT. After the addition of a few drops of water and aq. sat. NaCl solution (100 mL), extraction was performed with DCM (2×50 mL). After drying of the combined organic phases over sodium sulfate, filtration and removal of the solvent, purification was performed via column chromatography. 4-Methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.03 g, 51% of theoretical) was obtained.

reactant | Sodium hydride | 11.8 mmol, 470 mg | [H-].[Na+]
reactant | 4-methyl-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester | 5.84 mmol, 1.42 g | C(C)OC(=O)C=1NC=C(C1C1=CC=C(C=C1)C)C | C15H17NO2
reactant | p-bromobenzyl bromide | 11.7 mmol, 2.16 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | NaCl | 100 mL | [Na+].[Cl-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | water | a few drops | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.03 g, 51% | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)C)C)CC1=CC=C(C=C1)C | C23H25NO2
